US06204294B1
b) 2-Allyloxy-4-cyanoaniline
A mixture of 1-allyloxy-5-cyano-2-nitrobenzene (3.6 g, 17.46 mmol) and tin (II) chloride (19.7 g, 87.3 mmol) in ethanol (100 ml) was stirred overnight at rt. The solvent was removed under reduced pressure. The reaction mixture was partitioned between 5% NaHCO3 and ethyl acetate. The mixture was filtered to remove the tin salts and the aqueous was further extracted with ethyl acetate (×4). The combined organic phases were washed with water and brine, dried over MgSO4 Removal of solvent at reduced pressure gave a brown solid (2.82 g) which was recrystallized from t-butyl-methylether/hexane to give the title compound as a pale brown solid. (2.63 g, 93%) MS(ES+) m/e 175 [M+H]+; MS(ES−) m/e 173 [M−H]−;

reactant | 1-allyloxy-5-cyano-2-nitrobenzene | 17.46 mmol, 3.6 g | C(C=C)OC1=C(C=CC(=C1)C#N)[N+](=O)[O-] | C10H8N2O3
reactant | tin (II) chloride | 87.3 mmol, 19.7 g | [Sn](Cl)Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Allyloxy-4-cyanoaniline | 2.82 g | C(C=C)OC1=C(N)C=CC(=C1)C#N | C10H10N2O
